US07122683B2
tert-butyl (3S)-3-(cyclobutylmethylamino)pyrrolidine-1-carboxylate
Cyclobutane methanol (0.2 ml, 2.11 mmol) followed by triphenylphosphine (465 mg, 2.3 mmol) were added to a solution of the compound from preparation 10 (0.8 g, 1.92 mmol) in tetrahydrofuran (40 ml) under nitrogen. The reaction mixture was cooled down to 0° C. and a solution of diisopropyl azodicarboxylate (0.45 ml, 2.3 mmol) in tetrahydrofuran (15 ml) was added dropwise with the temperature kept below 3° C. The reaction mixture was stirred at 0° C. for 0.5 hour and then at room temperature for 18 hours. Tetrahydrofuran was evaporated and the residue taken up in dichloromethane (20 ml). Triethylamine (0.53 ml, 3.84 mmol) and mercapto acetic acid (0.16 ml, 2.3 mmol) were added and the reaction mixture was stirred at room temperature for 2 hours. It was then washed with 2N aqueous hydrogen chloride. The aqueous layer was basified to pH11 with 2M sodium hydroxide and back-extracted three times with ethyl acetate. The organic phases were then concentrated in vacuo to provide the title compound (151 mg, 31%).

reactant | Cyclobutane methanol | 2.11 mmol, 0.2 ml | C1(CCC1)CO | C5H10O
reactant | triphenylphosphine | 2.3 mmol, 465 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.3 mmol, 0.45 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Triethylamine | 3.84 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | mercapto acetic acid | 2.3 mmol, 0.16 ml | SCC(=O)O | C2H4O2S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | tert-butyl (3S)-3-(cyclobutylmethylamino)pyrrolidine-1-carboxylate | 151 mg, 31% | C1(CCC1)CN[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C14H26N2O2
